US08633186B2
N-(2-Cyano-4,5-dimethoxyphenyl)sulfamide
Prepared as in Example 77a from 2-amino-4,5-dimethoxybenzonitrile and sulfamoyl chloride. 1H NMR (400 MHz, DMSO-d6) δ 3.77-3.80 (d, J=14.8, 6H), 7.05 (s, 1H), 7.06 (s, 1H), 7.29 (s, 1H), 9.15 (s, 1H).

reactant | 2-amino-4,5-dimethoxybenzonitrile | NC1=C(C#N)C=C(C(=C1)OC)OC | C9H10N2O2
reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
product | N-(2-Cyano-4,5-dimethoxyphenyl)sulfamide | C(#N)C1=C(C=C(C(=C1)OC)OC)NS(=O)(=O)N | C9H11N3O4S
